US06384030B1
A mixture of [2S-[2α,4α(S*,S*)]]-4-[4-[4-[4-[[2-(2,4-difluorophenyl)-2-(1H-1,2,4-triazol-1-ylmethyl)-1,3-dioxolan-4-yl]methoxy]phenyl]-1-piperazinyl]phenyl]-2,4-dihydro-2-[1-methyl-2-[(methylsulfonyl)oxy]propyl]-3H-1,2,4-triazol-3-one (0.0039 mol) and NaN3 (0.005 mol) in DMF (50 ml) was stirred at 85° C. for 48 hours, poured out into H2O and stirred for 30 minutes. The precipitate was filtered off and dissolved in CH2Cl2. The organic solution was washed, dried, filtered and the solvent was evaporated. The residue was purified by column chromatography over silica gel (eluent: CH2Cl2/CH3OH 98/2). The pure fractions were collected and the solvent was evaporated. The residue was triturated in DIPE and 2-propanol, filtered off and dried, yielding 1.1 g (41%) of [2S-[2α,4α(R*,S*)]]-2-(2-azido-1-methylpropyl)-4-[4-[4-[4-[[2-(2,4difluorophenyl)-2-(1H-1,2,4-triazol-1-ylmethyl)-1,3-dioxolan-4-yl]methoxy]-phenyl]-1-piperazinyl]phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one; (compound 19).

reactant | 4-[4-[4-[4-[[2-(2,4-difluorophenyl)-2-(1H-1,2,4-triazol-1-ylmethyl)-1,3-dioxolan-4-yl]methoxy]phenyl]-1-piperazinyl]phenyl]-2,4-dihydro-2-[1-methyl-2-[(methylsulfonyl)oxy]propyl]-3H-1,2,4-triazol-3-one | 0.0039 mol | FC1=C(C=CC(=C1)F)C1(OCC(O1)COC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)N1C(N(N=C1)C(C(C)OS(=O)(=O)C)C)=O)CN1N=CN=C1 | C36H40F2N8O7S
reactant | NaN3 | 0.005 mol | [N-]=[N+]=[N-].[Na+]
reactant | H2O | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 2-(2-azido-1-methylpropyl)-4-[4-[4-[4-[[2-(2,4difluorophenyl)-2-(1H-1,2,4-triazol-1-ylmethyl)-1,3-dioxolan-4-yl]methoxy]-phenyl]-1-piperazinyl]phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one | N(=[N+]=[N-])C(C(C)N1N=CN(C1=O)C1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)OCC1OC(OC1)(CN1N=CN=C1)C1=C(C=C(C=C1)F)F)C | C35H37F2N11O4
